data/mechanism_extracts/GreenChem/10.1039_D3GC05126A_sup_1.json
{"doi": "10.1039_D3GC05126A_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical epoxidation of styrenes and aliphatic alkenes using (TMP)MnCl catalyst with H2O as oxygen source under constant current electrolysis", "mechanism_family": ["mediator_anodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation of Mn(III) catalyst to a high-valent Mn-oxo species using H2O as the oxygen atom source; the Mn-oxo then transfers oxygen to the alkene", "key_intermediates": [{"name": "(TMP)Mn(III)Cl precatalyst", "smiles": null, "role": "resting_state"}, {"name": "high-valent Mn-oxo (Mn(V)=O or Mn(IV)=O) species derived from H2O", "smiles": null, "role": "reactive"}, {"name": "styrene oxide product/epoxide-bound Mn", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, the (TMP)Mn(III) catalyst is oxidized in the presence of H2O (and pyridine base) to generate a high-valent Mn-oxo intermediate; this electrophilic oxo transfers its oxygen atom to the alkene to give the epoxide, regenerating the lower-valent Mn for re-oxidation at the anode. Protons are reduced at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "H2-18O (isotope-labeled water)", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "GC-MS analysis of epoxide product from electrolysis with H2-18O confirms that the oxygen atom incorporated into the epoxide originates from water (Figure S1)"}], "evidence_types_used": ["H/D_labeling", "isotope_label", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "Only the isotope-labeling page is shown here; full mechanistic picture (e.g., CV, radical traps, DFT) may appear elsewhere in the SI. The scale-up (3 mmol, 71% yield) confirms practicality. Pyridine likely serves as an axial ligand/base assisting Mn-oxo formation."}
